US05587376
6-Amino-5-bromoquinoxaline hydrobromide
The crude 6-amino-5-bromoquinoxaline from above was dissolved in water and saturated sodium bisulfite solution was added until the resulting solution tested negative with starch-iodide paper. The solution was then basified with 2N sodium hydroxide and extracted thoroughly with ethyl acetate. The organic extract was dried over magnesium sulfate and concentrated under reduced pressure to give the free base. The crude product was recrystallized from boiling benzene to give yellow crystals, m.p. 155°-6° C. Using various analytical procedures, the yellow crystals were determined to be 6-amino-5-bromoquinoxaline. The yield was 82%.

reactant | 6-amino-5-bromoquinoxaline | NC=1C(=C2N=CC=NC2=CC1)Br | C8H6BrN3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | O | H2O
product | 6-Amino-5-bromoquinoxaline hydrobromide | Br.NC=1C(=C2N=CC=NC2=CC1)Br | InChI=1S/C8H6BrN3.BrH/c9-7-5(10)1-2-6-8(7)12-4-3-11-6;/h1-4H,10H2;1H
